US09303033B2
To 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (4.52 g, 19.15 mmol) in methylene chloride (80 mL) was added triethylamine (3.2 mL, 23 mmol), dimethylaminopyridine (350 mg, 2.87 mmol), and di-t-butyldicarbonate (12.53 g, 57.44 mmol) The mixture was stirred at room temperature for 60 minutes. The reaction mixture was transferred to a separatory funnel, washed 1× with H2O, 2× with brine, dried over MgSO4, filtered, and evaporated to dryness to provide an oily residue. The crude material was purified by silica gel chromatography (0%-20% ethyl acetate/hexanes) to yield 5.68 g (88% yield) of tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate. LCMS (M+1=337)

reactant | 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 19.15 mmol, 4.52 g | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C10H9ClN4O
reactant | triethylamine | 23 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 2.87 mmol, 350 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyldicarbonate | 57.44 mmol, 12.53 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 5.68 g, 88% yield | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C15H17ClN4O3
